US07759366B2
2-(4-{2-[3-(6-Cyano-4′-fluorobiphenyl-3-yl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-ylmethyl]-5-fluorophenylamino}phenyl)-2-methylmalonic acid
The compound of Example 259 was, as described for the preparation of Example 233, obtained via the corresponding tert-butyl ester. The di-tert-butyl ester 259.3 was obtained via the sequence of 236.1 (di-tert-butyl 2-methyl-2-(4-nitrophenyl)-malonate; 1H NMR: 8.22, d, 2H, 7.64, d, 2H, 1.71, s, 3H, 1.41, s, 18H)→236.2 (di-tert-butyl 2-(4-aminophenyl)-2-methylmalonate hydrochloride; molecular weight (free base) 321.19 (C18H27NO4); retention time Rt=1.61 min. [C]; MS (ESI): 322.21 (MH+))→259.3 (di-tert-butyl 2-(4-{2-[3-(6-cyano-4′-fluorobiphenyl-3-yl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-ylmethyl]-5-fluorophenylamino}phenyl)-2-methylmalonate (by reaction with 253.3)). The reaction of the crude product with 4N hydrochloric acid in dioxane afforded compound 259; molecular weight 638.19 (C35H28F2N4O6); retention time Rt=2.59 min. [D]; MS (ESI): 639.30 (MH+).

reactant | di-tert-butyl 2-(4-{2-[3-(6-cyano-4′-fluorobiphenyl-3-yl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-ylmethyl]-5-fluorophenylamino}phenyl)-2-methylmalonate | C(#N)C1=CC=C(C=C1C1=CC=C(C=C1)F)N1C(N(C(C1=O)(C)C)CC1=C(C=C(C=C1)F)NC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C)=O | C43H44F2N4O6
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-{2-[3-(6-Cyano-4′-fluorobiphenyl-3-yl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-ylmethyl]-5-fluorophenylamino}phenyl)-2-methylmalonic acid | C(#N)C1=CC=C(C=C1C1=CC=C(C=C1)F)N1C(N(C(C1=O)(C)C)CC1=C(C=C(C=C1)F)NC1=CC=C(C=C1)C(C(=O)O)(C(=O)O)C)=O | C35H28F2N4O6
